US06313246B1
Monomer A, N,N-Dimethyl-N-acryloyloxyethyl-N-(3-sulfopropyl)-ammonium Betaine
10 g of N,N-dimethylaminoethyl acrylate (CPS Chemical Company, Old Bridge, N.J.) is dissolved in approximately 150 mL of acetone in a 250 mL round bottom flask containing a magnetic stir bar. To this solution is added 8.35 g of propane sultone (Aldrich). The flask is equipped with a reflux condenser and heated at 30° C. with stirring overnight. In the morning, the resulting white solid is isolated by filtration, washed twice with diethyl ether, and dried under vacuum in a desiccator for 24 hours. A 13C NMR spectrum of the product is consistent with the structure of the sulfobetaine monomer.

reactant | N,N-dimethylaminoethyl acrylate | 10 g | C(C=C)(=O)OCCN(C)C | C7H13NO2
reactant | propane sultone | 8.35 g | C1CCOS1(=O)=O | C3H6O3S
reactant | acetone | approximately 150 mL | CC(=O)C | C3H6O
product | N,N-Dimethyl-N-acryloyloxyethyl-N-(3-sulfopropyl)-ammonium Betaine | C[N+](CCCS(=O)(=O)O)(CCOC(C=C)=O)C.C[N+](C)(C)CC(=O)O | InChI=1S/C10H19NO5S.C5H11NO2/c1-4-10(12)16-8-7-11(2,3)6-5-9-17(13,14)15;1-6(2,3)4-5(7)8/h4H,1,5-9H2,2-3H3;4H2,1-3H3/p+2
